Geometric subdivision: multiplier-feedback square-root cells
.options reltol=1e-9 abstol=1e-13 vntol=1e-10 method=gear
Vunit unit 0 1
Vx x 0 1.9073486328125
Vweight w 0 6.3999999999999997e-05
Bm0 0 m0 I=min(0.001,max(-0.001,0.00010409023889143037*((1*v(unit)*v(x)*(1)+(0))-v(m0)*v(m0))))+0*sin(6.28318530718*1e6*time+0)
Cm0 m0 0 1.9555785948846697e-11 IC=1
Rlm0 m0 0 1000000000000000
Bm1 0 m1 I=min(0.001,max(-0.001,0.00010350014092319067*((2*v(unit)*v(m0)*(1)+(0))-v(m1)*v(m1))))+0*sin(6.28318530718*1e6*time+1)
Cm1 m1 0 1.8026311909641322e-11 IC=1
Rlm1 m1 0 1000000000000000
Bm2 0 m2 I=min(0.001,max(-0.001,9.7908112397136572e-05*((1*v(unit)*v(m1)*(1)+(0))-v(m2)*v(m2))))+0*sin(6.28318530718*1e6*time+2)
Cm2 m2 0 2.0642860708002449e-11 IC=1
Rlm2 m2 0 1000000000000000
Bm3 0 m3 I=min(0.001,max(-0.001,0.00010108812160449528*((1*v(unit)*v(m2)*(1)+(0))-v(m3)*v(m3))))+0*sin(6.28318530718*1e6*time+3)
Cm3 m3 0 1.947071085254192e-11 IC=1
Rlm3 m3 0 1000000000000000
Bm4 0 m4 I=min(0.001,max(-0.001,0.00010064072289534313*((2*v(unit)*v(m3)*(1)+(0))-v(m4)*v(m4))))+0*sin(6.28318530718*1e6*time+4)
Cm4 m4 0 1.9753434827094506e-11 IC=1
Rlm4 m4 0 1000000000000000
Bm5 0 m5 I=min(0.001,max(-0.001,9.7012668116527284e-05*((1*v(unit)*v(m4)*(1)+(0))-v(m5)*v(m5))))+0*sin(6.28318530718*1e6*time+5)
Cm5 m5 0 2.0480774731327105e-11 IC=1
Rlm5 m5 0 1000000000000000
Bratio 0 ratio I=min(0.001,max(-0.001,1e-4*(1*v(m5)*1+(0)-v(unit)*v(ratio))))
Cratio ratio 0 20p IC=1
Rlratio ratio 0 1000000000000000
Bzsrc zsrc 0 V=(v(ratio)-1)*(1)+(0)
Rz zsrc z 10000
Cz z 0 20p IC=0
Rlz z 0 1000000000000000
Bz2src z2src 0 V=(v(z)*v(z))*(1)+(0)
Rz2 z2src z2 10000
Cz2 z2 0 20p IC=0
Rlz2 z2 0 1000000000000000
Bqlsrc qlsrc 0 V=(1+(1-v(w)/2)*v(z)+(v(w)-1)*(v(w)-2)*v(z2)/12)*(1)+(0)
Rql qlsrc ql 10000
Cql ql 0 20p IC=0
Rlql ql 0 1000000000000000
Bqusrc qusrc 0 V=(1+(1-(1-v(w))/2)*v(z)+(-v(w))*(-1-v(w))*v(z2)/12)*(1)+(0)
Rqu qusrc qu 10000
Cqu qu 0 20p IC=0
Rlqu qu 0 1000000000000000
Bnlsrc nlsrc 0 V=(v(w)*v(z)*(1+v(z)/2))*(1)+(0)
Rnl nlsrc nl 10000
Cnl nl 0 20p IC=0
Rlnl nl 0 1000000000000000
Bnusrc nusrc 0 V=((1-v(w))*v(z)*(1+v(z)/2))*(1)+(0)
Rnu nusrc nu 10000
Cnu nu 0 20p IC=0
Rlnu nu 0 1000000000000000
Bdl 0 dl I=min(0.001,max(-0.001,1e-4*(v(nl)*1+(0)-v(ql)*v(dl))))
Cdl dl 0 20p IC=0
Rldl dl 0 1000000000000000
Bdu 0 du I=min(0.001,max(-0.001,1e-4*(v(nu)*1+(0)-v(qu)*v(du))))
Cdu du 0 20p IC=0
Rldu du 0 1000000000000000
Blowersrc lowersrc 0 V=(v(unit)*(1+v(dl)))*(1)+(0)
Rlower lowersrc lower 10000
Clower lower 0 20p IC=0
Rllower lower 0 1000000000000000
Buppersrc uppersrc 0 V=(1*v(m5)/(1+v(du)))*(1)+(0)
Rupper uppersrc upper 10000
Cupper upper 0 20p IC=0
Rlupper upper 0 1000000000000000
Bncoresrc ncoresrc 0 V=(v(z)*(1+v(z)/2))*(1)+(0)
Rncore ncoresrc ncore 10000
Cncore ncore 0 20p IC=0
Rlncore ncore 0 1000000000000000
Bcore 0 core I=min(0.001,max(-0.001,1e-4*(v(ncore)-v(ql)*v(core))))
Ccore core 0 20p IC=0
Rlcore core 0 1000000000000000
.control
set noaskquit
set wr_singlescale
set wr_vecnames
set numdgt=17
tran 20n 30u uic
wrdata trace.csv v(lower) v(upper) v(unit) v(dl) v(ratio) v(core)
quit
.endc
.end
